US07196090B2
1-Cyclopentyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-(2-hydroxy-1-hydroxymethyl-ethylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one was prepared as in Example 2 using 0.4 g (0.92 mmol) 1-cyclopentyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one and 0.25 g (2.76 mmol) serinol. The final product was purified by column chromatography (20:1 dichloromethane/methanol). This gave 0.29 g (68%) of 1-cyclopentyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-(2-hydroxy-1-hydroxymethyl-ethylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one as a white solid: mp 194° C.–195° C.; MS (APCI) m/z 462.2, 463.2.

reactant | 1-cyclopentyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.92 mmol, 0.4 g | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)S(=O)C)C2=C(C(=CC(=C2)OC)OC)F)=O | C20H23FN4O4S
reactant | serinol | 2.76 mmol, 0.25 g | NC(CO)CO | C3H9NO2
product | 1-Cyclopentyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-(2-hydroxy-1-hydroxymethyl-ethylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)NC(CO)CO)C2=C(C(=CC(=C2)OC)OC)F)=O | C22H28FN5O5
